US07592143B2
3,4-Bis-(1,1-dimethyl-prop-2-ynyloxy)-xanthen-9-one
A solution of 3,4-dihydroxy-xanthen-9-one (1.25 g, 5.47 mmol), cupric chloride (30.2 mg, 0.225), 3-chloro-3-methyl-1-butyne (3.36 mL, 29.9 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (2.00 mL, 13.3 mmol), and acetonitrile (100 mL) was stirred at room temperature for 11 h under argon. The solution was then heated at 75° C. for 2 h and cooled to room temperature. The solution was partitioned between ethyl acetate (100 mL) and water (75 mL). The ethyl acetate layer was dried over sodium sulfate and was concentrated by rotary evaporation. The product was purified by flash column chromatography (10:1 hexanes/ethyl acetate) to yield 496 mg (25%) of the title compound as a light yellow solid. 1H NMR (CDCl3, 300 MHz): δ 8.33 (dd, J1=7.97 Hz, J2=1.65, 1H), 8.07 (d, J=9.06 Hz, 1H), 7.71 (ddd, J1=8.18 Hz, J2=7.08, J3=1.58, 1H), 7.65 (d, J=9.06 Hz, 1H), 7.52 (dd, J1=8.52 Hz, J2=0.55, 1H), 7.38 (m, 1H), 2.66 (s, 1H), 2.30 (s, 1H), 1.84 (s, 6H), 1.77 (s, 6H).

reactant | 3,4-dihydroxy-xanthen-9-one | 5.47 mmol, 1.25 g | OC=1C=CC=2C(C3=CC=CC=C3OC2C1O)=O | C13H8O4
reactant | 3-chloro-3-methyl-1-butyne | 29.9 mmol, 3.36 mL | ClC(C#C)(C)C | C5H7Cl
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 13.3 mmol, 2.00 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3,4-Bis-(1,1-dimethyl-prop-2-ynyloxy)-xanthen-9-one | 496 mg, 25% | CC(C#C)(OC=1C=CC=2C(C3=CC=CC=C3OC2C1OC(C#C)(C)C)=O)C | C23H20O4
